US09376392B2
Preparation of (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-tert-butoxyethanol:
To a stirred solution of (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-tert-butoxyethyl pivalate (50.0 g, 115 mmol) in THF (600 mL) and methanol (200 mL) was added 1M NaOH solution (300 mL, excess) at 0° C. The mixture was stirred at room temperature for 16 hours, diluted with water. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product. LCMS-ESI+: calc'd for C17H22BrNO2: 352.1 (M+H+); Found: 352.1 (M+H+).

reactant | (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-tert-butoxyethyl pivalate | 115 mmol, 50.0 g | C(C(C)(C)C)(=O)OC[C@@H](OC(C)(C)C)C=1C(=C2C=CC(=NC2=CC1C)C)Br | C22H30BrNO3
reactant | NaOH | 1M, 300 mL | [OH-].[Na+]
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | methanol | 200 mL | CO | CH4O
solvent | water | O | H2O
product | (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-tert-butoxyethanol | BrC1=C2C=CC(=NC2=CC(=C1[C@@H](CO)OC(C)(C)C)C)C | C17H22BrNO2
